US05049669
N-(3-Methylbutyl)-10-[(2RS)-1-(N-ethyl-N-methyl-amino)-2-propyl]-2-phenothiazinecarbothioamide (0.3 g) is dissolved in a solution of fumaric acid (81 mg) in absolute ethanol (5 cc) and the mixture is concentrated to dryness under reduced pressure (30 mm Hg; 4 kPa) at 40° C. The residual orange product of meringue-like consistency is dissolved in acetic acid (5 cc) and mercuric acetate (0.23 g) is added. The orange suspension obtained is stirred for 16 hours at a temperature in the region of 20° C. The reaction mixture is concentrated to dryness under reduced pressure (30 mm Hg; 4 kPa) at 60° C. The residue is taken up with distilled water (10 cc) and filtered and the filtrate is alkalinized with caustic soda (d=1.33) to pH 13 and extracted with ethyl acetate (2×10 cc). The combined organic phases are washed with saturated aqueous sodium chloride solution (10 cc), dried over magnesium sulphate, filtered and concentrated to dryness under reduced pressure (30 mm Hg; 4 kPa) at 40° C. The residual yellow oil (0.15 g) is dissolved in ethyl acetate (2 cc), and isopropyl ether (20 cc) is added. The solution obtained is cooled to a temperature in the region of 5° C. and a solution (5.1 cc) of 0.065N hydrochloric acid in isopropyl ether is added dropwise and with stirring. The precipitate formed is drained, washed with isopropyl ether (3×5 cc) and dried under reduced pressure (5 mm Hg; 0.7 kPa) at 40° C. N-(3-Methylbutyl)-10-[(2RS)-1-(N-ethyl-N-methylamino)-2-propyl]-2-phenothiazinecarboxamide hydrochloride (0.13 g) is thereby obtained in the form of an off-white solid, m.p. 110-120° C. (melts forming a paste).

reactant | N-(3-Methylbutyl)-10-[(2RS)-1-(N-ethyl-N-methyl-amino)-2-propyl]-2-phenothiazinecarbothioamide | 0.3 g | CC(CCNC(=S)C1=CC=2N(C3=CC=CC=C3SC2C=C1)C(CN(C)CC)C)C | C24H33N3S2
reactant | hydrochloric acid | 0.065N, 5.1 cc | Cl | ClH
reactant | fumaric acid | 81 mg | C(\C=C\C(=O)O)(=O)O | C4H4O4
solvent | ethanol | 5 cc | C(C)O | C2H6O
solvent | isopropyl ether | C(C)(C)OC(C)C | C6H14O
product | N-(3-Methylbutyl)-10-[(2RS)-1-(N-ethyl-N-methylamino)-2-propyl]-2-phenothiazinecarboxamide hydrochloride | 0.13 g | Cl.CC(CCNC(=O)C1=CC=2N(C3=CC=CC=C3SC2C=C1)C(CN(C)CC)C)C | InChI=1S/C24H33N3OS.ClH/c1-6-26(5)16-18(4)27-20-9-7-8-10-22(20)29-23-12-11-19(15-21(23)27)24(28)25-14-13-17(2)3;/h7-12,15,17-18H,6,13-14,16H2,1-5H3,(H,25,28);1H
